US09216999B2
4-(Bromomethyl)benzamide
4-(Bromomethyl)benzoic acid (300 mg, 1.40 mmol) in ethyl acetate (5 mL) was stirred with thionyl chloride (249 μL, 3.50 mmol) at 75° C. for 9 hours. The reaction mixture was allowed to cool to room temperature and concentrated under reduced pressure. The residue was dissolved in dichloromethane (5 mL) and stirred with 28% ammonia aqueous solution (380 μL, 5.60 mmol) under cooling with ice for 80 minutes. The reaction mixture was mixed with water, and the precipitate was collected by filtration, washed with dichloromethane to give the title compound as a colorless solid (274 mg, yield 91%).

reactant | 4-(Bromomethyl)benzoic acid | 1.40 mmol, 300 mg | BrCC1=CC=C(C(=O)O)C=C1 | C8H7BrO2
reactant | thionyl chloride | 3.50 mmol, 249 μL | S(=O)(Cl)Cl | Cl2OS
reactant | ammonia aqueous | 5.60 mmol, 380 μL | [NH4+].[OH-]
reactant | water | O | H2O
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
product | 4-(Bromomethyl)benzamide | 274 mg, yield 91% | BrCC1=CC=C(C(=O)N)C=C1 | C8H8BrNO
